US08119805B2
Stage (v): (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanesulfonyl chloride
(1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanesulfonic acid was dissolved in benzene (3 ml), thionyl chloride (0.034 ml) was added and the mixture was refluxed for 4 h. After cooling, the reaction mixture was concentrated in vacuo and the crude product was employed in the next stage without purification.

reactant | (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanesulfonic acid | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CS(=O)(=O)O)(F)F | C13H16F3NO5S2
reactant | thionyl chloride | 0.034 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CS(=O)(=O)Cl)(F)F | C13H15ClF3NO4S2
